US06090825
B. 4-[2-(4-Chlorophenyl)-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester
To a stirred solution of N-carbobenzoxy-isonipecotic acid (10.49 g, 39.84 mmol) and 4-methylmorpholine (NMM) (500 mL, 45.0 mmol) in anhydrous dichloromethane (200 mL) under N2 and cooled in an -25° C. bath is added isobutyl chloroformate (5.30 mL, 40.0 mmol) dropwise. Following complete addition, the suspension is stirred for 5 min, then 2-amino-4'-chloroacetophenone hydrochloride (7.4632 g, 36.217 mmol), prepared as in Part A, is added, followed by NMM (10.10 mL, 90.94 mmol). After stirring in the -25° C. bath for 30 min, the suspension is allowed to warm to RT over 1.5 h. To the solid reaction mixture is added half-saturated aqueous sodium bisulfate, dichloromethane, and ethyl acetate. The solids are collected, washed with dichloromethane, and heated to reflux in THF (300 mL) for 30 min. The mixture is filtered and the filtrate concentrated to about 1/20th volume. Diethyl ether is added, the precipitated solids are collected, and dried in vacuo at RT to afford the product as fluffy, white solids.

reactant | N-carbobenzoxy-isonipecotic acid | 39.84 mmol, 10.49 g | C(=O)(OCC1=CC=CC=C1)N1CCC(C(=O)O)CC1 | C14H17NO4
reactant | 4-methylmorpholine | 45.0 mmol, 500 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 40.0 mmol, 5.30 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-amino-4'-chloroacetophenone hydrochloride | 36.217 mmol, 7.4632 g | Cl.NCC(=O)C1=CC=C(C=C1)Cl
reactant | NMM | 90.94 mmol, 10.10 mL | CN1CCOCC1 | C5H11NO
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(4-Chlorophenyl)-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NCC(=O)C1=CC=C(C=C1)Cl)=O | C22H23ClN2O4
